Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transient L sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ PMHx HTN (non-compliant with
chlorthalidone) who presents with presyncope followed by
transient left sided weakness.

Pt recalls feeling like her usual self earlier in the day. 
Around
17:00, she suddenly felt dizzy further described as
lightheadedness. She denies a sensation of room spinning or
disequilibrium. She went to use the bathroom. While sitting on
the toilet, she felt abdominal cramps and began sweating. She
denies chest pain or shortness of breath. She felt like she may
pass out and felt "weak all over". She then laid on the bathroom
floor and called ___. She did not lose awareness. 

Upon arrival of EMS, she was observed to be dysarthric with left
face, arm and leg weakness. Pt is unable to confirm this and
states she felt "weak all over". 

She was brought to ___ where a code stroke was called. VS at
presentation: 97.9 80 220/110 (BP then improved without
intervention to SBP 170s) 18 100% RA. ED got NIHSS 1 for L leg
drift, this was not replicated on my evaluation with an NIHSS 0.
She reported feeling well at the time of my assessment and 
denied
any constitutional symptoms per ROS below.

Otherwise, she does report having "passing out symptoms" prior
"years ago" but denies any recent symptoms. She denies any 
recent
lateralized weakness or numbness or prior stroke. 

Of note, she is non-compliant with her medications (she has not
taken chlorthalidone for 2 weeks).

 
Past Medical History:
Glaucoma
HTN
Depression 
Colon polyps
HLD          
 
Social History:
___
Family History:
No family history of neurological disorders. +family history of
heart disease.                          

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to person, place and
time. Attention to examiner easily maintained. Recalls a 
coherent
history. Speech is fluent with full sentences, intact 
repetition,
and intact verbal comprehension. Content of speech demonstrates
intact naming (high and low frequency) and no paraphasias. 
Normal
prosody. No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response mute bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally.

- Gait - Deferred.

DISCHARGE PHYSICAL EXAM:
Nonfocal
 
Pertinent Results:
___ 04:55AM BLOOD WBC-6.7 RBC-4.08 Hgb-12.6 Hct-38.5 MCV-94 
MCH-30.9 MCHC-32.7 RDW-13.6 RDWSD-47.0* Plt ___
___ 05:35PM BLOOD WBC-7.4 RBC-4.46 Hgb-13.8 Hct-41.9 MCV-94 
MCH-30.9 MCHC-32.9 RDW-13.5 RDWSD-46.7* Plt ___
___ 05:35PM BLOOD ___ PTT-26.2 ___
___ 04:55AM BLOOD Glucose-65* UreaN-21* Creat-0.9 Na-142 
K-3.8 Cl-102 HCO3-26 AnGap-18
___ 05:35PM BLOOD ALT-38 AST-34 AlkPhos-81 TotBili-0.2
___ 12:25AM BLOOD cTropnT-<0.01
___ 05:35PM BLOOD cTropnT-<0.01
___ 04:55AM BLOOD Calcium-9.2 Phos-4.6* Mg-2.4 Cholest-199
___ 04:55AM BLOOD %HbA1c-5.5 eAG-111
___ 04:55AM BLOOD Triglyc-55 HDL-77 CHOL/HD-2.6 LDLcalc-111 
LDLmeas-127
___ 04:55AM BLOOD TSH-1.6
___ 05:35PM BLOOD Glucose-98 Na-140 K-4.2 Cl-98 calHCO3-29

___ NCHCT
1. No acute intracranial process.  Specifically no intracranial 
hemorrhage or 
acute large territorial infarction. 
2. Of note MR for the sensitive detection of acute infarcts. 

___ Brain
1. No acute intracranial process. 
2. Carotid and vertebral arteries and the vessel of the circle 
___ are 
patent, without evidence of stenosis or aneurysm.  Mild 
atherosclerotic 
disease basilar artery. 

 
Brief Hospital Course:
Ms. ___ presented to the hospital with transient left sided 
weakness. She was admitted to the Stroke service for evaluation 
of TIA. She was monitored on telemetry. She was started on 
aspirin and allowed permissive hypertension. She underwent CTA 
Head and Neck and MRI/MRA which were negative. Due to these 
images being negative with patient denying any further 
neurologic symptoms, she was discharged from the hospital.

Transition Issues:
-Pt will need to follow up with her primary care provider for 
further evaluation of likely presyncope
-Pt will need to be compliant with her home Chlorthalidone
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RisperiDONE 1 mg PO DAILY:PRN Depression 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. travoprost 0.004 % ophthalmic QHS 

 
Discharge Medications:
1.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
2.  RisperiDONE 1 mg PO DAILY:PRN Depression  
3.  travoprost 0.004 % ophthalmic QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presyncopal event

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms concerning for an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
HTN
HLD  
 

Please continue your home medications as prescribed.  
 
Please followup with your primary care physician.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___